Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / gluten / Alvesco / Augmentin
 
Attending: ___.
 
Chief Complaint:
fevers/chills/muscle aches
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___, PMHx of ___, OSA on CPAP who presents with
fever/chills, muscle aches. 

Patient reports he had a prodromal viral syndrome that started
___ with congestion and rhinorrhea, no cough. Son with
similar syndromes plus cough. This morning he began feeling
worsening malaise, headache, muscle aches, shakes. Reports that
while in the waiting room he began feeling shakier and noted 
mild
blurry vision. History of asthma. Denies chest pain, shortness 
of
breath. Some nausea, no vomiting. Reports he has been eating and
drinking a lot, normal urination and bowel movements. No rash. 
No
HA, neck pain. No recent stays in hotels. 

In the ED, initial vitals:  97.8, HR 87, BP 159/60, RR 18 96% RA
- Exam notable for:  Fever 100.8 F. Rigors, neck supple, Mild
cervical lymphadenopathy
- Labs notable for:  
125 | 87 | 10 /                          \ 15  /
------------   103                   10.1   ---  194  
4.1 | 19 | 0.9 \                          /41.4 \

Ca 8.2 | Mg 1.7 |Phos 3.5
___ 12.6 |PTT 30.8 | INR 1.2
AST 44| ALT 53| AlkP 74|Tbili 2.3| Alb 4.7 |Lipase 27
Serum Osm 254
Trop <0.01| CK 48
Lactate 4.0 --> 0.7
UA: neg ___, Trace protein, 10 ketones, no bacteria
FluA/B: negative

- Imaging notable for:  
CXR:  IMPRESSION: No acute intrathoracic process

- Pt given:  
___ 14:24IVFNS1L
___ 14:53POAcetaminophen 1000 mg
___ 16:25IVFNS1L
___ 17:21IVKetorolac 15 mg
___ 18:31IVAzithromycin 500mg

- Consults: None
- Vitals prior to transfer:  98.1, HR 57, BP 104/64, RR 16 98% 
RA

Upon arrival to the floor, the patient reiterates symptoms as
above. Reports being very tired as he was up most of the night
last night due to congestion. 

 
Past Medical History:
SLEEP APNEA
___
H/O ALLERGY, FOOD
H/O BRONCHITIS, ALLERGIC
H/O ENVIRONMENTAL ALLERGY
H/O HEEL PAIN, RIGHT
H/O PLANTAR FASCIITIS, RIGHT
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS:  ___ 2256 Temp: 97.3 PO BP: 112/68 HR: 56 RR: 16 O2
sat: 98% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, neck
supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, no focal deficit

DISCHARGE PHYSICAL EXAM:
=======================
VITALS:  24 HR Data (last updated ___ @ 413)
    Temp: 98.1 (Tm 98.1), BP: 130/76 (112-130/68-76), HR: 55
(51-56), RR: 18 (___), O2 sat: 98%, O2 delivery: Mask, Wt:
154.3 lb/69.99 kg  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, neck with 
mild stiffness on flexion/extension though not limited overall, 
no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, no focal deficit
 

 
Pertinent Results:
ADMISSION LABS:
==================
___ 02:23PM BLOOD WBC-10.1* RBC-4.88 Hgb-15.0 Hct-41.4 
MCV-85 MCH-30.7 MCHC-36.2 RDW-11.9 RDWSD-36.5 Plt ___
___ 02:23PM BLOOD Neuts-66.1 Lymphs-18.5* Monos-13.6* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-6.67* AbsLymp-1.87 
AbsMono-1.37* AbsEos-0.07 AbsBaso-0.04
___ 02:31PM BLOOD ___ PTT-30.8 ___
___ 02:23PM BLOOD Glucose-103* UreaN-10 Creat-0.9 Na-125* 
K-4.1 Cl-87* HCO3-19* AnGap-19*
___ 02:23PM BLOOD ALT-53* AST-44* CK(CPK)-48 AlkPhos-74 
TotBili-2.3* DirBili-0.3 IndBili-2.0
___ 02:23PM BLOOD Lipase-27
___ 02:23PM BLOOD cTropnT-<0.01
___ 02:23PM BLOOD Albumin-4.7
___ 02:23PM BLOOD Osmolal-254*
___ 02:23PM BLOOD TSH-1.6
___ 02:53PM BLOOD Lactate-4.0*
___ 05:19PM BLOOD Glucose-83 Lactate-0.7 Creat-0.7 Na-124* 
K-3.5 Cl-96
___ 05:19PM BLOOD Hgb-13.3* calcHCT-40

MICROBIOLOGY:
==============
___ Flu PCR Negative
___ Urine Culture: No growth 
___ Urine Legionella Antigen Negative
___ Blood Culture (Preliminary): No growth to date

Key Imaging/Procedures:
=====================
___ CXR: No acute intrathoracic process

DISCHARGE LABS:
===============
___ 12:50PM BLOOD Glucose-107* UreaN-10 Creat-0.7 Na-135 
K-4.1 Cl-98 HCO3-25 AnGap-12
___ 12:50PM BLOOD ALT-42* AST-29 LD(LDH)-146 AlkPhos-66 
TotBili-1.2
___ 12:50PM BLOOD Albumin-4.3 Calcium-9.0 Phos-3.5 Mg-1.___, PMHx of ___, OSA on CPAP who presents with fever, 
chills, myalgias, and neck stiffness concerning for aseptic 
meningitis. 

ACTIVE ISSUES: 
============
# aseptic meningitis, suspected
# Chills/muscle aches/fever
Patient presents with subacute URI symptoms in addition to 
chills, muscle aches, headaches, neck stiffness and fevers. He 
endorses recent sick contacts (son and wife both with URI Sx).  
In the ED, had a lactate of 4 that improved after fluid 
resuscitation and holding albuterol. Flu PCR was negative and 
CXR did not demonstrate any focal consolidations. Patient was 
treated with azithromycin in the ED but this was discontinued 
upon arrival to medicine service as bacterial infection was felt 
to be less likely. Given his fever, headache and neck stiffness, 
viral meningitis was felt to be likely, though his symptoms were 
overall improving. LP was recommended but patient declined as 
his symptoms were improving. Given improvement in symptoms and 
labs, patient was discharged to home with ongoing supportive 
management.

# Hyponatremia 
Patient presents with hypotonic hyponatremia and appears 
euvolemic on exam with urine Osm 370 consistent with for SIADH, 
especially in context of concern for viral meningitis. He 
received 2L IV NS with improvement of sodium from 125 to 129, so 
he likely has a mixed hypovolemic component to his hyponatremia. 
Repeat Na prior to discharge up to 135. Patient will need to 
have repeat Na checked at follow up with PCP next week. 

# ___
# Mild transaminits
# Bilirubinemia
Pt with Hx of gilberts, nontender abd, nonjaundice. Lab 
abnormalities likely due to acute viral illness. LFTs 
downtrended during hospitalization. RUQUS was deferred given 
improvement. Patient should have repeat LFTs checked at follow 
up with PCP next week. 

CHRONIC ISSUES:
============== 
# OSA: Continue home CPAP
# Asthma: Continue home ALBUTEROL inhaler and home
BECLOMETHASONE DIPROPIONATE, montelukast

TRANSITIONAL ISSUES:
======================
[] patient declined LP during hospitalization given improvement 
in symptoms; low threshold for LP if symptoms worsen
[] patient will need repeat Na and LFTs as an outpatient within 
one week of discharge

___ is clinically stable for discharge today. On the 
day of discharge, greater than 30 minutes were spent on the 
planning, coordination, and communication of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. beclomethasone dipropionate 80 mcg/actuation inhalation BID 
2. albuterol sulfate 90 mcg/actuation inhalation DAILY 
3. montelukast 4 mg oral DAILY 

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation DAILY  
2.  beclomethasone dipropionate 80 mcg/actuation inhalation BID  

3.  montelukast 4 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral meningitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your 
hospitalization!

WHY WERE YOU ADMITTED?
-You had fevers, rigors, and headache.

WHAT HAPPENED DURING YOUR HOSPITALIZATION?
-Your symptoms were felt to be related to viral meningitis. 
-You were given IV fluids and pain relievers.
-You were initially started on antibiotics but these were 
discontinued as it was felt that you did not have a bacterial 
infection.
-Your symptoms improved throughout the day and you were 
discharged to home.
-It was recommended that you have a lumbar puncture but you 
decided against having one.

WHAT SHOULD YOU DO ONCE YOU GET HOME?
-You should continue to take acetaminophen as needed for pain 
control.
-You should follow up with your PCP early next week.
-You should return to the ED if you develop worsening headaches, 
blurry vision, weakness in your arms/legs, worsening fevers, or 
any other concerning symptoms. 
 
Followup Instructions:
___